US07700643B2
2-(6-Chlorohexyl)thiophene
To a stirred solution of thiophene (5.0 g, 59.5 mmol) in dry THF (50 ml) was added n-butyllithium (2.5 M in hexanes, 20.0 ml, 50.0 mmol) dropwise at −78° C. under nitrogen. After complete addition, the mixture was allowed to warm to room temperature, with stirring, over 2 h, followed by the addition of 1-chloro-6-iodohexane (12.3 g, 50.0 mmol). The resultant mixture was stirred overnight at room temperature. The reaction was quenched with sat. aq. ammonium chloride, and the reaction mixture was extracted with ethyl acetate (3×70 ml). The combined organic extracts were washed with water, brine, and dried over magnesium sulphate. The solvent was removed under reduced pressure and the residue was chromatographyed (silica gel, petroleum ether), to afford the product as a pale yellow oil (9.3 g, 92%). 1H NMR (300 MHz, CDCl3): δ (ppm) 7.06 (dd, J=5.1 Hz, 1.2 Hz, 1H, Ar—H), 6.87 (dd, J=5.1 Hz, 3.4 Hz, 1H, Ar—H), 6.75 (m, 1H, Ar—H), 3.48 (t, J=6.6 Hz, 2H, ClCH2), 2.80 (t, J=7.4 Hz 2H, ArCH2), 1.61-1.78 (m, 4H, CH2), 1.29-1.50 (m, 4H, CH2); 13C NMR (75 MHz, CDCl3): δ (ppm) 145.5 (quat.), 126.7 (CH), 124.1 (CH), 122.9 (CH), 45.1 (CH2), 32.6 (CH2), 31.7 (CH2), 29.9 (CH2), 28.4 (CH2) 26.7 (CH2); MS (m/e) 204 (M+, 9%), 202 (M+, 3%), 97 (100).

reactant | thiophene | 59.5 mmol, 5.0 g | S1C=CC=C1 | C4H4S
reactant | n-butyllithium | 50.0 mmol, 2.5 M, 20.0 ml | C(CCC)[Li]
reactant | 1-chloro-6-iodohexane | 50.0 mmol, 12.3 g | ClCCCCCCI | C6H12ClI
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-(6-Chlorohexyl)thiophene | 9.3 g, 92% | ClCCCCCCC=1SC=CC1 | C10H15ClS
